US05760054
4-(Spiro[2H-1,3-benzoxazine-2,4'-piperidin]-1'-yl)-butylphthalimide
From spiro[2H- 1,3-benzoxazine-2,4'-piperidine] and 2-(4-bromobutyl)-phthalimide using the procedure described for Example 15, Step 5 there was obtained a white solid: mp 165°-7° C.

reactant | spiro[2H- 1,3-benzoxazine-2,4'-piperidine] | N1CCC2(CC1)OC1=C(C=N2)C=CC=C1 | C12H14N2O
reactant | 2-(4-bromobutyl)-phthalimide | BrCCCCC12C(C(=O)NC1=O)C=CC=C2 | C12H14BrNO2
product | 4-(Spiro[2H-1,3-benzoxazine-2,4'-piperidin]-1'-yl)-butylphthalimide | N1(CCC2(CC1)OC1=C(C=N2)C=CC=C1)CCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C24H25N3O3
